US07786165B2
[4-(benzyloxy)-2,6-dimethylphenyl]boronic acid
To a solution (100 mL) of 5-(benzyloxy)-2-bromo-1,3-dimethylbenzene (8.78 g, 30.2 mmol) in tetrahydrofuran was added n-butyllithium hexane solution (1.6 M, 22.6 mL, 36.2 mmol) under stirring at −78° C. The reaction mixture was stirred at the same temperature for 1.5 hr, and triisopropyl borate (20.9 mL, 90.6 mmol) was added. The mixture was allowed to warm to room temperature and stirred overnight. To the reaction mixture was added 2 M hydrochloric acid (150 mL) and the mixture was stirred for 2.5 hr. The mixture was partitioned between ethyl acetate and water. The organic layer was washed with saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. Cold hexane was added to the residue to allow crystallization. The precipitated crystals were collected by filtration, washed with cold hexane and dried to give the title compound (4.65 g, yield 60%) as colorless crystals.

reactant | 5-(benzyloxy)-2-bromo-1,3-dimethylbenzene | 30.2 mmol, 100 mL, 8.78 g | C(C1=CC=CC=C1)OC=1C=C(C(=C(C1)C)Br)C | C15H15BrO
reactant | n-butyllithium hexane | 36.2 mmol, 1.6 M, 22.6 mL | CCCCCC.C(CCC)[Li]
reactant | triisopropyl borate | 90.6 mmol, 20.9 mL | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | hydrochloric acid | 2 M, 150 mL | Cl | ClH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | [4-(benzyloxy)-2,6-dimethylphenyl]boronic acid | 4.65 g, yield 60% | C(C1=CC=CC=C1)OC1=CC(=C(C(=C1)C)B(O)O)C | C15H17BO3
